US09284335B2
Step B: 2-Amino-5-(((2S,6R)-2,6-dimethylmorpholino)methyl)nicotinonitrile.
A suspension of 2-amino-5-bromonicotinonitrile (50 mg, 0.25 mmol), potassium (((2S,6R)-2,6-dimethylmorpholino)methyl)-trifluoroborate (219 mg, 0.51 mmol), Cs2CO3 (247 mg, 0.76 mmol), dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (36 mg, 0.076 mmol) and palladium(II) acetate (8.5 mg, 0.038 mmol) in dioxane (1 mL) and water (0.1 mL) was purged with nitrogen for 10 minutes, then sealed and heated at 80° C. for 15 hours. The reaction was filtered through CELITE® while still hot, cooled to room temperature, and diluted with water (10 mL). The resulting precipitate was filtered, washed with water (10 mL) and hexanes (10 mL), and dried under vacuum to give the title compound as a solid (57 mg, 92%). 1H NMR (400 MHz, DMSO-d6) δ 1.03 (d, J=6.3 Hz, 6H), 1.61 (t, J=10.7 Hz, 2H), 2.64 (d, J=10.7 Hz, 2H), 3.45-3.61 (m, 2H), 6.83 (s, 2H), 7.74 (d, J=2.3 Hz, 1H), 8.03-8.19 (m, 1H).

reactant | 2-amino-5-bromonicotinonitrile | 0.25 mmol, 50 mg | NC1=C(C#N)C=C(C=N1)Br | C6H4BrN3
reactant | potassium (((2S,6R)-2,6-dimethylmorpholino)methyl)-trifluoroborate | 0.51 mmol, 219 mg | C[C@@H]1O[C@@H](CN(C1)C[B-](F)(F)F)C.[K+]
reactant | Cs2CO3 | 0.76 mmol, 247 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.076 mmol, 36 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.1 mL | O | H2O
catalyst | palladium(II) acetate | 0.038 mmol, 8.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Amino-5-(((2S,6R)-2,6-dimethylmorpholino)methyl)nicotinonitrile | 57 mg, 92% | NC1=C(C#N)C=C(C=N1)CN1C[C@@H](O[C@@H](C1)C)C | C13H18N4O
